US07109226B2
Synthesis of N-(4-Chlorophenoxyethyl)-3-(2-methoxyphenyl)propanamide
3-(2-Methoxyphenyl)propionic acid (8.3 g, 46.2 mmol) was dissolved in tetrahydrofuran (20 mL), and 4-chlorophenoxyethylamine (10.3 g, 60.0 mmol) was added dropwise thereto at room temperature. Subsequently, a solution (10 mL) of WSC.HCl (11.5 g, 60.0 mmol) in methylene chloride was slowly added dropwise thereto under ice-cooling, followed by stirring overnight. Under ice cooling, diluted hydrochloric acid was added dropwise thereto, followed by extraction with chloroform. The organic layer was washed with brine, and the resultant mixture was subjected to drying over anhydrous sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (chloroform/methanol=20/1), whereby the target compound was obtained (12.8 g, 83%).

reactant | 3-(2-Methoxyphenyl)propionic acid | 46.2 mmol, 8.3 g | COC1=C(C=CC=C1)CCC(=O)O | C10H12O3
reactant | 4-chlorophenoxyethylamine | 60.0 mmol, 10.3 g | ClC1=CC=C(OCCN)C=C1 | C8H10ClNO
reactant | WSC.HCl | 60.0 mmol, 10 mL, 11.5 g | CCN=C=NCCCN(C)C.Cl
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(4-Chlorophenoxyethyl)-3-(2-methoxyphenyl)propanamide | ClC1=CC=C(OCCNC(CCC2=C(C=CC=C2)OC)=O)C=C1 | C18H20ClNO3
